US09226916B2
a) rac-[(3R,4S)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester
To a solution of rac-(3S,4R)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-ylamine (30.64 g, 0.095 mol) in dichloromethane (300 mL) was added N,N-diisopropyl ethyl amine (32.65 mL, 0.191 mol) and 4-dimethylaminopyridine (1.17 g, 0.010 mol). The reaction mixture was cooled to 0° C. and di-tert.-butyl-dicarbonate (24.98 g; 0.114 mol) was added in 2 portions. After stirring 2 h at this temperature the solution was stirred at ambient temperature for 18 h. The resulting mixture was concentrated and purification by chromatography (SiO2, heptane:ethyl acetate=75:25) afforded the title compound (5.82 g, 14%) as a light yellow solid. MS m/e: 421.1 [M]+.

reactant | rac-(3S,4R)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-ylamine | 0.095 mol, 30.64 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)N | C17H18Cl2N2
reactant | N,N-diisopropyl ethyl amine | 0.191 mol, 32.65 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert.-butyl-dicarbonate | 0.114 mol, 24.98 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.010 mol, 1.17 g | CN(C1=CC=NC=C1)C | C7H10N2
product | rac-[(3R,4S)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 5.82 g, 14% | C(C)(C)(C)OC(N[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)CC1=CC=CC=C1)=O | C22H26Cl2N2O2
